US08981085B2
5-Chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (3.0 g, 9.2 mmol) in THF (15 mL) at 0° C. was treated dropwise with TBAF (10.1 mL, 10.1 mmol). After 30 minutes, the reaction was quenched with saturated aqueous NaHCO3 and extracted into CH2Cl2. The combined organic fractions were dried (MgSO4), filtered, and concentrated in vacuo. The crude was purified by flash chromatography on silica gel using 1.2% MeOH:CH2Cl2 to provide 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridine (1.4 g, 89% yield).

reactant | 5-Chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 9.2 mmol, 3.0 g | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)F | C16H24ClFN2Si
reactant | TBAF | 10.1 mmol, 10.1 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridine | 1.4 g, 89% yield | ClC=1C(=C2C(=NC1)NC=C2)F | C7H4ClFN2
